US07579464B2
Triethylamine (26.7 g) was added to a solution of 2-aminobiphenyl (41.4 g) in dichloromethane (248 mL) at room temperature. The solution obtained was cooled to −18° C. and chloracetylchloride (28.8 g) was slowly added. The suspension obtained was further stirred for 1 hour at 0° C. and for 15 hours at room temperature. Dichloromethane (150 mL), ice-water (500 mL), water (500 mL) and saturated aqueous NaHCO3 (150 mL) were added. After stirring, the phases were separated, the organic phase was washed with half-saturated aqueous NaCl (1000 mL) and the aqueous phases were extracted with dichloromethane (250 mL). The combined organic layers were dried (MgSO4) and concentrated under vacuum to a weight of ca. 100 g. After 40 minutes stirring at room temperature, the precipitate was filtered off, washed with dichloromethane (80 mL) and dried under high vacuum to afford N-biphenyl-2-yl-2-chloro-acetamide (8.6 g, 14.5%) as white crystals. The filtrate was further concentrated under reduced pressure to a weight of ca. 115 g and hexane (100 mL) was added dropwise. After 1 hour of stirring at room temperature, the precipitate was filtered off, washed with 3 portions of hexane/dichloromethane 4:1 (22 mL) and dried under high vacuum affording N-biphenyl-2-yl-2-chloro-acetamide (31.2 g, 53.0%) as a grey powder. The filtrate was concentrated under reduced pressure to a weight of ca. 90 g and stirred for 1 hour at room temperature. The precipitate was filtered off, washed with 2 portions of hexane/dichloromethane 4:1 (17 mL) and dried under high vacuum affording N-biphenyl-2-yl-2-chloro-acetamide (10.8 g, 18.3%) as a grey powder.

reactant | Triethylamine | 26.7 g | C(C)N(CC)CC | C6H15N
reactant | 2-aminobiphenyl | 41.4 g | NC1=C(C=CC=C1)C1=CC=CC=C1 | C12H11N
reactant | chloracetylchloride | 28.8 g | ClCC(=O)Cl | C2H2Cl2O
reactant | NaHCO3 | 150 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 248 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | water | 500 mL | O | H2O
product | N-biphenyl-2-yl-2-chloro-acetamide | 8.6 g, 14.5% | C1(=C(C=CC=C1)NC(CCl)=O)C1=CC=CC=C1 | C14H12ClNO
